US04284631
A solution of ethyl 2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate (syn isomer, 4.35 g.) in 1 N aqueous sodium hydroxide (33 ml.) was stirred below 10° C. for 3 hours. The resultant solution was adjusted to pH 7.0 with conc. hydrochloric acid under ice cooling and washed with ethyl acetate. To the aqueous solution was added ethyl acetate and adjusted to pH 1.5 with hydrochloric acid under ice cooling. The ethyl acetate layer was separated and the aqueous layer was extracted with ethyl acetate. The extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried and then concentrated in vacuo. The oily residue was dissolved in diethyl ether and n-hexane was added to the solution until the solution became clear. The solution was stirred for an hour, and the precipitates were collected by filtration and washed with n-hexane to give 2-(2-ethoxyethoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer, 3.2 g.).

reactant | ethyl 2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate | 4.35 g | C(=O)NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC | C12H17N3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 33 ml | [OH-].[Na+]
product | 2-(2-ethoxyethoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 3.2 g | C(C)OCCON=C(C(=O)O)C=1N=C(SC1)NC=O | C10H13N3O5S
